US08614201B2
Intermediate 57: C-[2-Pyrrolidin-1-yl-6-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-methylamine
To a solution of 2-pyrrolidin-1-yl-6-(4-trifluoromethyl-phenyl)-isonicotinonitrile (0.20 g, 0.61 mmol) in ethanol (20 mL) was added 1.25 M HCl in ethanol (0.50 mL, 0.63 mmol) and Pd/C (20 mg, 10 wt. %) and the system was placed under H2 atmosphere (50 atm) for 72 hours. The reaction mixture was filtered through Celite and concentrated under reduced pressure to provide the desired product (200 mg, 99%).

reactant | 2-pyrrolidin-1-yl-6-(4-trifluoromethyl-phenyl)-isonicotinonitrile | 0.61 mmol, 0.20 g | N1(CCCC1)C=1C=C(C#N)C=C(N1)C1=CC=C(C=C1)C(F)(F)F | C17H14F3N3
reactant | HCl | 1.25 M | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Pd/C | 20 mg | [Pd] | Pd
solvent | ethanol | 0.63 mmol, 0.50 mL | C(C)O | C2H6O
product | C-[2-Pyrrolidin-1-yl-6-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-methylamine | 200 mg, 99% | N1(CCCC1)C1=NC(=CC(=C1)CN)C1=CC=C(C=C1)C(F)(F)F | C17H18F3N3
